US07977362B2
A mixture of 4-chloro-N-(4-cyano-2,5-difluorobenzyl)-N-(trans-2-(hydroxymethyl)cyclohexyl)benzenesulfonamide (198 mg, 0.44 mmol), hydroxylamine hydrochloride (153 mg, 2.2 mmol), and triethylamine (300 uL, 2.2 mmol) was refluxed in 5 mL ethanol for 3 h. The reaction was concentrated and the residue was partitioned between ethyl acetate and sat, sodium bicarbonate solution. The organic layer was dried over magnesium sulfate and concentrated. The crude intermediate was stirred in 3 mL triethylorthoformate with two drops of boron trifluoride etherate at room temperature overnight. The reaction was purified by preparative HPLC followed by flash chromatography on silica gel with 0 to 60% ethyl acetate in hexane to yield 4-chloro-N-(2,5-difluoro-4-(1,2,4-oxadiazol-3-yl)benzyl)-N-(trans-2-(hydroxymethyl)cyclohexyl)benzenesulfonamide (100 mg, 46%). 1H NMR (400 MHz, CDCl3) δ ppm 8.81 (s, 1H), 7.69-7.82 (m, 3H), 7.58 (dd, J=10.20, 5.92 Hz, 1H), 7.50 (d, J=8.56 Hz, 2H), 4.49-4.58 (m, 1H), 4.35-4.45 (m, 1H), 3.62-3.73 (m, 2H), 3.08-3.19 (m, 1H), 2.54 (br. s., 1H), 1.60-1.76 (m, 3H), 1.38-1.49 (m, 2H), 0.99-1.24 (m, 4H). Analytical HPLC R.T.=22.87 min. MS [M+H]+=498; [M+Na]+=520. HRMS [M+H]+ calc'd 498.1066, found 498.1063.

reactant | 4-chloro-N-(4-cyano-2,5-difluorobenzyl)-N-(trans-2-(hydroxymethyl)cyclohexyl)benzenesulfonamide | 0.44 mmol, 198 mg | ClC1=CC=C(C=C1)S(=O)(=O)N([C@H]1[C@@H](CCCC1)CO)CC1=C(C=C(C(=C1)F)C#N)F | C21H21ClF2N2O3S
reactant | hydroxylamine hydrochloride | 2.2 mmol, 153 mg | Cl.NO
reactant | triethylamine | 2.2 mmol, 300 uL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-chloro-N-(2,5-difluoro-4-(1,2,4-oxadiazol-3-yl)benzyl)-N-(trans-2-(hydroxymethyl)cyclohexyl)benzenesulfonamide | 100 mg, 46% | ClC1=CC=C(C=C1)S(=O)(=O)N([C@H]1[C@@H](CCCC1)CO)CC1=C(C=C(C(=C1)F)C1=NOC=N1)F | C22H22ClF2N3O4S
